Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Atrial fibrillation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with past mental history of
psoriatic arthritis, hypertension, hypercholesterolemia who was
seen at liver clinic for his initial visit in the setting of
recent years of abnormal liver tests found to be a new atrial
fibrillation. He was seen in liver clinic on ___ for abnormal
liver tests for many years. He is a former heavy etoh user has
just recently started cutting down roughly ___ year ago. 
Throughout
this whole time he denies any episodes of jaundice, abdominal
distention or increasing girth, hematemesis, or confusion. His
records show a panel of Tbili 1.6, ALT 21, AST 28, AP 217 in
___ with a follow up test in ___ showing Tbili 2.2,
ALT 37, AST 43, AP 189. Over this time his GGT has gone from 569
to 746. He has had two MRIs in this time period that show fatty
liver and a segment VI heterogenous enhancement. His liver 
biopsy
done ___ shows evidence of immune mediated injury, some fatty
liver and signs of fibrosis secondary to toxic metabolic insult.
His tumor markers including CEA, CA ___ and AFP are normal. In
clinic, he was noted to be in atrial fibrillation, a new rhythm
for him. Case was discussed with cardiology who recommended
admission for further work up. 
 
Past Medical History:
-Hypertension
-Hypercholesterolemia
-Psoriatic arthritis
-Appendectomy

 
Social History:
___
Family History:
No hx of liver disease, no IBD, no ___ no hemochromatosis.
Mother, father, and brother all had heart disease
 
Physical Exam:
ON ADMISSION:
=============
VS: ___ 0543 Temp: 97.6 PO BP: 130/77 L Sitting HR: 78 RR:
18 O2 sat: 98% O2 delivery: RA 
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: irregularly irregular rhythm, S1/S2, no murmurs, gallops, or
rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: trace lower extremity edema, no asterixis 
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: warm and well perfused, no jaundice

ON DISCHARGE:
=============
24 HR Data (last updated ___ @ 1133)
Temp: 97.5 (Tm 97.6), BP: 142/80 (118-142/77-80), HR: 84 
(78-84),
RR: 17 (___), O2 sat: 100% (98-100), O2 delivery: Ra, Wt:
170.19 lb/77.2 kg  
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM
CV: irregularly irregular rhythm, S1/S2, no murmurs/rubs/gallops 

PULM: CTAB, no wheezes/crackles/rhonchi,breathing comfortably
without use of accessory muscles  
GI: Abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no palpable hepatosplenomegaly, normoactive BS
EXTREMITIES: Warm and well perfused, no edema 
PULSES: 2+ radial pulses bilaterally  
NEURO: A&Ox3, Alert, moving all 4 extremities with purpose, face
symmetric  
 
 
Pertinent Results:
ON ADMISSION:
=============
___ 10:24AM   WBC-4.4 RBC-3.29* HGB-11.0* HCT-33.8* 
MCV-103* MCH-33.4* MCHC-32.5 RDW-17.0* RDWSD-64.1*
___ 10:24AM   ALT(SGPT)-28 AST(SGOT)-42* ALK PHOS-178* TOT 
BILI-1.2
___ 10:24AM   TOT PROT-8.2 ALBUMIN-4.5 GLOBULIN-3.7 
IRON-127 
___ 10:24AM   GGT-559*
___ 10:24AM   calTIBC-278 FERRITIN-291 TRF-214
___ 10:24AM   IgG-1498 IgA-965* IgM-64
___ 10:24AM   ___ AFP-6.7
___ 10:24AM   AMA-NEGATIVE Smooth-NEGATIVE
___ 10:24AM   HBsAg-NEG HBs Ab-NEG HBc Ab-NEG HAV Ab-NEG
___ 10:24AM   HCV Ab-NEG
___ 10:24AM   TSH-2.8

ON DISCHARGE:
=============
___ 09:35AM   GLUCOSE-133* UREA N-20 CREAT-1.0 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-23 ANION GAP-16
___ 09:35AM   ALT(SGPT)-25 AST(SGOT)-34 LD(LDH)-135 ALK 
PHOS-157* TOT BILI-1.2
___ 09:35AM   CK-MB-<1 cTropnT-<0.01
___ 09:35AM   WBC-3.9* RBC-3.00* HGB-10.1* HCT-30.0* 
MCV-100* MCH-33.7* MCHC-33.7 RDW-17.2* RDWSD-62.9*

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with hypertension, 
hyperlipidemia, and psoriatic arthritis with ongoing evaluation 
for liver disease who was admitted for new atrial fibrillation.

ACUTE ISSUES:
===============
#Atrial fibrillation
Incidentally found while on scheduled visit to liver clinic on 
___. EKG showed AFib, RBBB, V1-V3 T wave inversions. He 
remained asymptomatic and HD stable throughout admission. HRs 
___. Troponins neg x 2, TSH neg. CHADSVASC: 2. HASBLED: 3. 
Will defer anticoagulation to outpatient cardiology.

#Liver disease
Elevated alk phos, GGT. Liver biopsy ___. Likely etoh 
mediated liver disease vs autoimmune. Autoimmune markers sent at 
outpt apt. Will need EGD for esophageal varices eval in future. 
He was continued on ursodiol 300mg TID.

CHRONIC ISSUES:
===============
#HTN: He was continued on home spironolactone.

#Hypercholesterolemia: He was continued on home simvastatin.

TRANSITIONAL ISSUES:
====================
[] Please evaluate the need for anticoagulation as an outpatient 
- CHADSVASC 2.
[] Pt was not initiated on rate control as his rates were in the 
___ while inpatient. Please consider need for rate control as an 
outpatient
[] Pt will need continued liver follow up for his chronic liver 
disease
#CODE: Full (presumed)
#CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Ursodiol 300 mg PO TID 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY  
2.  Lisinopril 20 mg PO DAILY  
3.  Simvastatin 20 mg PO QPM  
4.  Ursodiol 300 mg PO TID  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___! Please see more 
details listed below about what happened while you were in the 
hospital and your instructions for what to do after leaving the 
hospital. 

WHY YOU WERE ADMITTED TO THE HOSPITAL:
- You were found to have an abnormal heart rhythm while you were 
at the liver clinic

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:
- You an EKG which showed an abnormal heart rhythm called atrial 
fibrillation
- You had lab tests to look for evidence of poor blood flow to 
the heart which were normal

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL: 
- Continue to take your medications as prescribed
- Please follow up with cardiology (as below)

It was a pleasure participating in your care. We wish you the 
best! 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___